US06794403B2
Step b) 2-Amino-6-bromo-4-methoxyphenol
Raney/Ni (2.5 g) was added into a solution of 2-bromo-4-methoxy-6-nitrophenol (8.8 g, 35.5 mmol) in EtOAc (100 mL). The mixture was shaken in a Parr apparatus under hydrogen at 25 psi for 2.5 h. The reaction mixture was filtered through celite and concentrated under vacuum to give a gray solid (7.4 g, 96% yield; 95-97° C.); MS m/e 218 (M+H)+.

reactant | 2-bromo-4-methoxy-6-nitrophenol | 35.5 mmol, 8.8 g | BrC1=C(C(=CC(=C1)OC)[N+](=O)[O-])O | C7H6BrNO4
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Ni | 2.5 g | [Ni] | Ni
product | 2-Amino-6-bromo-4-methoxyphenol | 96% yield | NC1=C(C(=CC(=C1)OC)Br)O | C7H8BrNO2
